US07737136B2
trans-N-(8-Amino-7-chloro-2,3,4,14b-tetrahydro-1H-dibenzo[b,f]pyrido[1,2-d][1,4]oxazepin-1-yl)-2,2,2-trifluoroacetamide
80 μL 36% HCl and SnCl2.2H2O (600 mg, 2.66 mmol) were added trans-N-(7-chloro-8-nitro-2,3,4,14b-tetrahydro-1H-dibenzo[b,f]pyrido[1,2-d][1,4]oxazepin-1-yl)-2,2,2-trifluoroacetamide (215 mg, 0.49 mmol) in 10 mL of ethanol. The resulting mixture was stirred at 60° C. for 18 h. After cooling the mixture was evaporated and dissolved in ethyl acetate. Aq. sodium bicarbonate was added to the solution (Sn salts were formed) followed by decalite and the mixture was filtered. The filtrate was extracted with ethyl acetate and the organic layer was washed with brine, dried (Na2SO4) and evaporated to give the title compound (194 mg, 82%). Data: (m/z)=413 (M+H)+.

reactant | HCl | 80 μL | Cl | ClH
reactant | SnCl2.2H2O | 2.66 mmol, 600 mg | O.O.Cl[Sn]Cl
reactant | trans-N-(7-chloro-8-nitro-2,3,4,14b-tetrahydro-1H-dibenzo[b,f]pyrido[1,2-d][1,4]oxazepin-1-yl)-2,2,2-trifluoroacetamide | 0.49 mmol, 215 mg | ClC1=CC2=C(OC3=C([C@H]4N2CCC[C@H]4NC(C(F)(F)F)=O)C=CC=C3)C=C1[N+](=O)[O-] | C19H15ClF3N3O4
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | trans-N-(8-Amino-7-chloro-2,3,4,14b-tetrahydro-1H-dibenzo[b,f]pyrido[1,2-d][1,4]oxazepin-1-yl)-2,2,2-trifluoroacetamide | 194 mg, 82% | NC=1C(=CC2=C(OC3=C([C@H]4N2CCC[C@H]4NC(C(F)(F)F)=O)C=CC=C3)C1)Cl | C19H17ClF3N3O2
